US05304565
6-(2-Acetoxyethyloxy)-2-butyl-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone
A mixture of 2-butyl-6-(2-chloroethyloxy)-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone (0.59 g), sodium iodide (0.16 g) and sodium acetate (0.87 g) in DMF (15 ml) was stirred at 80° C. for 3 days. The reaction mixture was concentrated to dryness and the residue was extracted with ethyl acetate. The extract was washed with water, dried and concentrated to dryness. The residue was purified by column chromatography on silica gel to give a colorless oil (0.42 g, 68%).

reactant | 2-butyl-6-(2-chloroethyloxy)-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 0.59 g | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O)OCCCl | C30H31ClN6O3
reactant | sodium iodide | 0.16 g | [I-].[Na+]
reactant | sodium acetate | 0.87 g | C(C)(=O)[O-].[Na+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 6-(2-Acetoxyethyloxy)-2-butyl-3-[[2'-(N-methoxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 0.42 g, 68% | C(C)(=O)OCCOC=1C=C2C(N(C(=NC2=CC1)CCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC)=O | C32H34N6O5
